US07176224B2
A. 2-[5-Methyl-2-(3-thiophen-3-ylphenyl)oxazol-4-yl]ethanol
2-[2-(3-Bromo-phenyl)-5-methyloxazol-4-yl]ethanol (1.0 g, 3.54 mmol) (see Ex. 2, Part D) and 3-thiophene boronic acid (5.32 mmol) were stirred in n-PrOH (10 mL) under nitrogen, to which 2M Na2CO3 (3.54 mL) was added. The mixture was heated at 85° C., and after Pd(PPh3)4 (41 mg, 0.0354 mmol) was added, the reaction proceeded for 0.5 h. Once the reaction mixture had cooled to room temperature, it was concentrated and taken up in CH2Cl2 (20 mL), then washed with 0.5M NaOH (20 mL). The aqueous layer was back-extracted with CH2Cl2 (10 mL), combined organics were washed with 1M NaOH (10 mL), followed by H2O (10 mL), then dried over Na2SO4, and concentrated to a crude solid. Recrystallized from ethyl acetate:hexanes (1:1) and vacuum oven-dried at 50° C. to yield a tan solid. 1H NMR (400 MHz, CDCl3) δ 8.22 (s, 1H), 7.92 (d, J=8.0 Hz, 1H), 7.62 (d, J=8.0 Hz, 1H), 7.57 (s, 1H), 7.48 (t, J=8.0 Hz, 1H) 7.46(m, 1H), 7.41 (m, 1H), 3.95 (t, J=5.6 Hz, 2H), 2.74 (t, J=5.6 Hz, 1H), 2.36 (s, 3H); MS (EI) 286.1 (M+H)+.

reactant | 2-[2-(3-Bromo-phenyl)-5-methyloxazol-4-yl]ethanol | 3.54 mmol, 1.0 g | BrC=1C=C(C=CC1)C=1OC(=C(N1)CCO)C | C12H12BrNO2
reactant | 3-thiophene boronic acid | 5.32 mmol | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 2M, 3.54 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | n-PrOH | 10 mL | C(CC)O | C3H8O
catalyst | Pd(PPh3)4 | 0.0354 mmol, 41 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[5-Methyl-2-(3-thiophen-3-ylphenyl)oxazol-4-yl]ethanol | CC1=C(N=C(O1)C1=CC(=CC=C1)C1=CSC=C1)CCO | C16H15NO2S
